US04916152
To a solution of (2S,4R)-4-amino-1-t-butoxycarbonyl-2-methoxycarbonylpyrrolidine (6.04 g) in dichloromethane (60 ml) were added triethylamine (3.44 ml) and p-chlorobenzenesulfonyl chloride (6.26 g) in an ice bath. After being stirred at room temperature overnight, the solution was washed successively with diluted hydrochloric acid, saturated aqueous sodium bicarbonate and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was crystallized from n-hexane to give (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine (9.13 g) as a pale yellow crystal.

reactant | (2S,4R)-4-amino-1-t-butoxycarbonyl-2-methoxycarbonylpyrrolidine | 6.04 g | N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H20N2O4
reactant | triethylamine | 3.44 ml | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 6.26 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine | 9.13 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)C(=O)OC | C17H23ClN2O6S
